US07638541B2
Step 1: 4-[4-(1-Hydroxy-ethyl)-5-methyl-thiazol-2-yl]-piperidine-1-carboxylic acid tert-butyl ester
To a solution of 4-(4-formyl-5-methyl-thiazol-2-yl)-piperidine-1-carboxylic acid tert-butyl ester (0.31 g, 1 mmol) in THF (10 mL) was added MeMgI (1 mL, 3 mmol) in Et2O at room temperature. The resulting mixture was stirred at room temperature for 1 hour. The reaction was quenched with saturated aqueous NH4Cl and extracted with EtOAc. The organic layer was washed with H2O and brine. After drying over Na2SO4, the solvent was removed. The residue was purified by flash chromatography on silica gel to afford the desired product.

reactant | 4-(4-formyl-5-methyl-thiazol-2-yl)-piperidine-1-carboxylic acid tert-butyl ester | 1 mmol, 0.31 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C=1SC(=C(N1)C=O)C | C15H22N2O3S
reactant | MeMgI | 3 mmol, 1 mL | C[Mg]I
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | Et2O | CCOCC | C4H10O
product | 4-[4-(1-Hydroxy-ethyl)-5-methyl-thiazol-2-yl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C=1SC(=C(N1)C(C)O)C | C16H26N2O3S
